US07576094B2
A mixture of 7-ethyl-6-hydroxy-5-methylspiro[chroman-2,1′-cyclobutan]-4-one (0.8 g), methoxyamine HCl salt (500 mg) and sodium acetate (300 mg) in MeOH (20 mL) was stirred at 80° C. overnight. The mixture was poured into water and extracted with ethyl acetate. The ethyl acetate was dried and evaporated. The residue was purified by silica gel column eluting with 10% ethyl acetate in hexane, giving 7-ethyl-6-hydroxy-5-methylspiro[chroman-2,1′-cyclobutan]-4-one O-methyl oxime (530 mg).

reactant | 7-ethyl-6-hydroxy-5-methylspiro[chroman-2,1′-cyclobutan]-4-one | 0.8 g | C(C)C1=C(C(=C2C(CC3(CCC3)OC2=C1)=O)C)O | C15H18O3
reactant | methoxyamine HCl salt | 500 mg | Cl.CON
reactant | sodium acetate | 300 mg | C(C)(=O)[O-].[Na+]
reactant | water | O | H2O
solvent | MeOH | 20 mL | CO | CH4O
product | 7-ethyl-6-hydroxy-5-methylspiro[chroman-2,1′-cyclobutan]-4-one O-methyl oxime | 530 mg | CON=C1CC2(CCC2)OC2=CC(=C(C(=C12)C)O)CC | C16H21NO3
